US05814648
D: 2-[3-(4,5-Dihydro-5(R)-phenyloxazol-2-yl)-2-fluorophenoxy]ethyl methacrylate
To a solution of 4,5-dihydro-2-(2-fluoro-3-hydroxyphenyl)-5(R)-phenyloxazol e (0.97 g, 3.8 mmol), triphenylphosphine (1.0 g, 4.0 mmol) and 2-hydroxyethyl methacrylate (0.50 ml, 4.0 mmol) in THF (30 ml) was added dropwise a solution of diethyl azodicarboxylate (0.65 ml, 4.0 mmol) in THF (15 ml). After stirring for 1 day, volatiles were removed by evaporation. The residue was purified by column chromatography on silica gel eluting with hexane-ethyl acetate (2:1) to afford the title compound (1.2 g, 86%) as a pale yellow liquid.

reactant | 4,5-dihydro-2-(2-fluoro-3-hydroxyphenyl)-5(R)-phenyloxazol e | 3.8 mmol, 0.97 g | FC1=C(C=CC=C1O)C=1O[C@@H](CN1)C1=CC=CC=C1 | C15H12FNO2
reactant | triphenylphosphine | 4.0 mmol, 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-hydroxyethyl methacrylate | 4.0 mmol, 0.50 ml | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | diethyl azodicarboxylate | 4.0 mmol, 0.65 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-[3-(4,5-Dihydro-5(R)-phenyloxazol-2-yl)-2-fluorophenoxy]ethyl methacrylate | 1.2 g, 86% | C(C(=C)C)(=O)OCCOC1=C(C(=CC=C1)C=1O[C@@H](CN1)C1=CC=CC=C1)F | C21H20FNO4
